US07947680B2
Step 3: 3-Amino-adamantane-1-carboxylic acid methyl ester hydrochloride
To a 3-neck 2-L flask equipped with a reflux condenser and a temperature probe was added 3-amino-adamantane-1-carboxylic acid hydrochloride (100 g, 432 mmol) and methanol (1.0 L). To this solution was slowly added thionyl chloride (15.7 mL, 216 mmol) and the reaction was heated at 60° C. for 4 hours. Once cooled to room temperature, the crude reaction mixture was concentrated under reduced pressure to remove most of the methanol. Heptane (about 1-L) was then added and the mixture was once again concentrated under reduced pressure at which point a solid began to precipitate. This process was repeated three more times, then the solids were filtered off, washed with heptane and allowed to dry in open air to afford 97.2 g (92%) of the title compound, 3-amino-adamantane-1-carboxylic acid methyl ester hydrochloride, as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.46 (br s, 3H), 3.65 (s, 3H), 2.33-2.24 (m, 2H), 2.23-2.16 (m, 2H), 2.11-1.95 (m, 4H), 1.94-1.78 (m, 4H), 1.75-1.62 (m,2H).

reactant | 3-amino-adamantane-1-carboxylic acid hydrochloride | 432 mmol, 100 g | Cl.NC12CC3(CC(CC(C1)C3)C2)C(=O)O
reactant | thionyl chloride | 216 mmol, 15.7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 1.0 L | CO | CH4O
product | 3-Amino-adamantane-1-carboxylic acid methyl ester hydrochloride | 97.2 g, 92% | Cl.COC(=O)C12CC3(CC(CC(C1)C3)C2)N | InChI=1S/C12H19NO2.ClH/c1-15-10(14)11-3-8-2-9(4-11)6-12(13,5-8)7-11;/h8-9H,2-7,13H2,1H3;1H
